US09079919B2
5-((2RS,4R)-3′-amino-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepine]-6-yl)nicotinonitrile
The cross coupling reaction of (2RS,4R)-6-bromo-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepin]-3′-amine (intermediate C3.4) with 5-cyanopyridin-3-ylboronic acid yielded the title compound (15% yield) as a colorless solid. MS (ISP): m/z=447.4 [M+H]+.

reactant | (2RS,4R)-6-bromo-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepin]-3′-amine | BrC=1C=C2C(=CC1)OC(C[C@@]21N=C(COCC1(F)F)N)C1=CC=CC=C1 | C19H17BrF2N2O2
reactant | 5-cyanopyridin-3-ylboronic acid | C(#N)C=1C=C(C=NC1)B(O)O | C6H5BN2O2
product | 5-((2RS,4R)-3′-amino-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepine]-6-yl)nicotinonitrile | 15% yield | NC=1COCC([C@@]2(N1)CC(OC1=CC=C(C=C12)C=1C=NC=C(C#N)C1)C1=CC=CC=C1)(F)F | C25H20F2N4O2
